US08629158B2
a) 5-((6-Methylpyridin-3-yl)methoxy)-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one
5-Hydroxy-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one (2.62 g, 13.4 mmol) and 5-(bromomethyl)-2-methylpyridine (7.47 g, 40.2 mmol) were reacted following the procedure for Example 17 (step a) to provide the title compound (1.76 g, 43%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 8.47 (s, 1H), 7.67 (d, J=6.2 Hz, 1H), 7.62-7.59 (dd, J=7.9, 2.3 Hz, 1H), 7.20 (d, J=8.0 Hz, 1H), 6.19 (d, J=2.8 Hz, 1H), 6.03-5.99 (dd, J=10.5, 2.0 Hz, 1H), 4.97 (s, 2H), 4.15-4.08 (m, 1H), 3.78-3.69 (td, J=11.6, 2.6 Hz, 1H), 2.59 (s, 3H), 2.16-2.00 (m, 2H), 1.74-1.54 (m, 4H).

reactant | 5-Hydroxy-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one | 13.4 mmol, 2.62 g | OC1=CC(N(N=C1)C1OCCCC1)=O | C9H12N2O3
reactant | 5-(bromomethyl)-2-methylpyridine | 40.2 mmol, 7.47 g | BrCC=1C=CC(=NC1)C | C7H8BrN
product | 5-((6-Methylpyridin-3-yl)methoxy)-2-(tetrahydro-2H-pyran-2-yl)pyridazin-3(2H)-one | 1.76 g, 43% | CC1=CC=C(C=N1)COC1=CC(N(N=C1)C1OCCCC1)=O | C16H19N3O3
